US04866091
To a stirred solution of 4'-acetyl-2'-(2-methylthiophenoxy)methanesulfonanilide (1.2 g) in acetic acid (7 ml) was added dropwise 30% hydrogen peroxide (1 ml). The mixture was stirred for 2 hours at 70° C. and cooled to room temperature. Ethanol (10 ml) was added, and the precipitates were filtered and washed with ethanol to give colorless needles of 4'-acetyl-2'-(2-methylsulfonylphenoxy)methanesulfonanilide (1.1 g).

reactant | 4'-acetyl-2'-(2-methylthiophenoxy)methanesulfonanilide | 1.2 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)SC1=C(C=CC=C1)C | C16H17NO3S2
reactant | hydrogen peroxide | 1 ml | OO | H2O2
reactant | Ethanol | 10 ml | C(C)O | C2H6O
solvent | acetic acid | 7 ml | C(C)(=O)O | C2H4O2
product | 4'-acetyl-2'-(2-methylsulfonylphenoxy)methanesulfonanilide | 1.1 g | C(C)(=O)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=CC=C1)S(=O)(=O)C | C16H17NO6S2
